US08802728B2
Add dropwise a solution of t-BuLi (19.2 mL, 25.0 mmol) in hexane via syringe to a solution of 1-bromo-3-methoxy-benzene (3.74 g, 20.0 mmol) in THF (60 mL) at −78° C. under N2. After being stirred at −78° C. for 1 hour, add dropwise a solution of 2-dimethylaminomethyl-bicyclo[3.2.1]octan-3-one (1.81 g, 10.0 mmol) in THF (10 mL) to the reaction mixture and stir the resultant mixture at −78° C. for additional 1 hour. Quench the reaction with saturated aqueous NH4Cl solution (20 mL). Extract the aqueous mixture with EtOAc (50 mL×3). The combined organic layers are washed with brine (15 mL), dried over Na2SO4, filtered, and concentrated under vacuum. Purify the residue by silica gel chromatography (CH2Cl2:MeOH=30:1) to afford 2-dimethylaminomethyl-3-(3-methoxy-phenyl)-bicyclo[3.2.1]octan-3-ol as white solid (1.49 g, yield: 51%). MS (m/z): 290 (M+1).

reactant | t-BuLi | 25.0 mmol, 19.2 mL | [Li]C(C)(C)C
reactant | 1-bromo-3-methoxy-benzene | 20.0 mmol, 3.74 g | BrC1=CC(=CC=C1)OC | C7H7BrO
reactant | 2-dimethylaminomethyl-bicyclo[3.2.1]octan-3-one | 10.0 mmol, 1.81 g | CN(C)CC1C2CCC(CC1=O)C2 | C11H19NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-dimethylaminomethyl-3-(3-methoxy-phenyl)-bicyclo[3.2.1]octan-3-ol | 1.49 g, yield: 51% | CN(C)CC1C2CCC(CC1(O)C1=CC(=CC=C1)OC)C2 | C18H27NO2
